*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18PG121SN1
* Property : Z@100MHz = 120[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18PG121SN1 port1 port2
R1 port1 1 30.38
L1 port1 1 5.506e-7
C1 port1 2 6.613e-13
R2 1 2 76.15
L2 1 2 1.236e-7
R3 2 3 44.43
L3 2 3 1.980e-7
R4 3 port2 4.000e-2
.ENDS BLM18PG121SN1
*----------------------------------------------------------------------
